US06362201B1
1-(N-(3-Ethoxycarbonylaminopropyl)-7-indolecarbonyl)-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(S)-(cyclopropyl)pyrrolidine
To a solution of 0.02 g (0.4 mmol) of 1-(N-(3-aminopropyl)-7-indolecarbonyl)-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(S)-(cyclopropyl)pyrrolidine and 0.02 mL (0.12 mmol) of diisopropylethylamine in 2 mL of CH2C2 was added 0.007 mL (3 mmol) of ethylchlorofornate and the reaction mixture was stirred overnight at rt. To the reaction mixture was added 1 mL of sat'd NaHCO3 solution and the mixture was partitioned between EtOAc and water. The organic fractions were washed with sat'd NaCl solution, dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chromatography (silica, acetone:hexanes, 1:3) to give 15 mg of the title compound. Mass Spectrum (EI) m/e 575 (M+1).

reactant | 1-(N-(3-aminopropyl)-7-indolecarbonyl)-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(S)-(cyclopropyl)pyrrolidine | 0.4 mmol, 0.02 g | NCCCN1C=CC2=CC=CC(=C12)C(=O)N1C[C@H]([C@@H](C1)C1CC1)CN1CCC(CC1)C1=CC=C(C=C1)F | C31H39FN4O
reactant | diisopropylethylamine | 0.12 mmol, 0.02 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NaHCO3 | 1 mL | C(=O)(O)[O-].[Na+]
product | 1-(N-(3-Ethoxycarbonylaminopropyl)-7-indolecarbonyl)-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(S)-(cyclopropyl)pyrrolidine | 15 mg | C(C)OC(=O)NCCCN1C=CC2=CC=CC(=C12)C(=O)N1C[C@H]([C@@H](C1)C1CC1)CN1CCC(CC1)C1=CC=C(C=C1)F | C34H43FN4O3
